US07375087B2
4-[(4-{2-[(S)-5-Amino-5-(carbamoyl)pentylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 99 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and (S)-6-amino-2-(benzyloxycarbonylamino)hexanamide hydrochloride instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole and 1-benzylpiperazine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCC(=O)O)C)C(C)C | C31H40N2O13
reactant | (S)-6-amino-2-(benzyloxycarbonylamino)hexanamide hydrochloride | Cl.NCCCC[C@@H](C(=O)N)NC(=O)OCC1=CC=CC=C1
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-[(4-{2-[(S)-5-Amino-5-(carbamoyl)pentylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | N[C@@H](CCCCNC(=O)CCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C)C(N)=O | C29H45N5O9
